US06599902B2
Synthesis of 3-[1-{3,5-Dimethyl-4-[2-oxo-2-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-ethyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one
A mixture of 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one (100 mg, 0.35 mmol), 3,5-dimethyl-4-[2-oxo-2-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-ethyl]-1H-pyrrole-2-carbaldehyde (110 mg, 1 eq.) and piperidine (0.5 eq.) in ethanol (2 mL) was stirred at rt for 48 hours. The reaction was concentrated, triturated with methanol, filtered and washed wit DCM to give the titled compound as a pale orange solid.

reactant | 5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | 0.35 mmol, 100 mg | C1(=CC=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H13NO3S
reactant | 3,5-dimethyl-4-[2-oxo-2-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-ethyl]-1H-pyrrole-2-carbaldehyde | 110 mg, 1 eq. | CC1=C(NC(=C1CC(N1[C@@H](CCC1)CN1CCCC1)=O)C)C=O | C18H27N3O2
reactant | piperidine | 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[1-{3,5-Dimethyl-4-[2-oxo-2-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-ethyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-phenylmethanesulfonyl-1,3-dihydro-indol-2-one | CC1=C(NC(=C1CC(N1[C@@H](CCC1)CN1CCCC1)=O)C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC=CC=C1)=O | C33H38N4O4S
